US07094865B2
Chiral 2-n-dodecyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine was synthesized by transetherification of 3,4-dimethoxythiophene with (S)-1,2-tetradecanediol and purified to a purity of 98.01% as described in INVENTION EXAMPLE 1. It was characterized by GC-MS and 1H-NMR-spectroscopy, and exhibited a specific rotation of −65° at 25° C. and 436 nm in hexane.

reactant | 3,4-dimethoxythiophene | COC1=CSC=C1OC | C6H8O2S
reactant | (S)-1,2-tetradecanediol | C([C@H](CCCCCCCCCCCC)O)O | C14H30O2
product | 2-n-dodecyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine | C(CCCCCCCCCCC)C1COC=2C(O1)=CSC2 | C18H30O2S
